US07544703B2
2-tert-Butoxycarbonylamino-4-(tert-butyldimethylsilyloxymethyl)pyridine (Reference Compound No. 5-1)
Imidazole (2.1 g, 31 mmol) and tert-butyldimethylsilyl chloride (4.4 g, 29 mmol) were added to a solution of (2-tert-butoxycarbonylaminopyridin-4-yl)methanol (Reference compound No. 4-1, 6.2 g, 28 mmol) in N,N-dimethylformamide (120 mL) at room temperature, and the mixture was stirred for 2 hours. Ethyl acetate (300 mL) was added to the reaction mixture, then the mixture was washed with water (750 mL) and brine (200 mL), and then the mixture was dried over anhydrous magnesium sulfate. The organic layer was evaporated under reduced pressure to give 9.0 g of the title reference compound as a colorless solid. (Yield 96%)

reactant | Imidazole | 31 mmol, 2.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 29 mmol, 4.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (2-tert-butoxycarbonylaminopyridin-4-yl)methanol | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CO | C11H16N2O3
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 2-tert-Butoxycarbonylamino-4-(tert-butyldimethylsilyloxymethyl)pyridine | Yield 96% | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C17H30N2O3Si
